US08609644B2
6,6-Ethylendioxyandrostane-3,17-dione (II-ag)
To a solution of 6,6-ethylendioxyandrostane-3β,17β-diol (0.216 g) in CH2Cl2 (8.7 mL) under N2, NMNO (0.217 g), TPAP (10.8 mg) and 4 Å molecular sieves (0.30 g) were added. The mixture was stirred for 1 h and then SiO2 was added. The mixture was purified by flash chromatography (SiO2, n-hexane/EtOAc 50/50) to give the title compound II-ag (0.154 g, 72%). 1H-NMR (300 MHz, acetone-d6, ppm from TMS): δ 4.04-3.70 (m, 4H), 2.52-0.82 (m, 20H), 1.18 (s, 3H), 0.88 (s, 3H).

reactant | 6,6-ethylendioxyandrostane-3β,17β-diol | 0.216 g | C1OC2(C[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]3(CC[C@@H](CC23)O)C)O)OC1 | C21H34O4
solvent | CH2Cl2 | 8.7 mL | C(Cl)Cl | CH2Cl2
catalyst | TPAP | 10.8 mg | CCC[N+](CCC)(CCC)CCC.[O-][Ru](=O)(=O)=O
product | 6,6-Ethylendioxyandrostane-3,17-dione | C1OC2(C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]3(CCC(CC23)=O)C)=O)OC1 | C21H30O4
